US07105516B2
Trans-3-(2-dimethylaminomethyl-cyclopentyl)-1H-indole-5-carbonitrile
Trans-3-(2-formyl-cyclopentyl)-1H-indole-5-carbonitrile (200 mg, 0.84 mMol) was stirred in THF (5 mL) and methanol (30 mL) with dimethylamine (0.84 mL, 2M in THF, 1.68 mMol) for 5 min. Sodium triacetoxyborohydride (530 mg, 2.52 mMol) was added and the reaction was stirred a further 30 min. The solvent was evaporated in vacuo and the residue was dissolved in 1N sodium hydroxide (20 mL). The reaction was extracted with ethyl acetate (3×10 mL), dried with magnesium sulfate, and evaporated to a white powder. The material was purified by precipitation from hot methylene chloride to provide the product (144 mg, 64%). 1H NMR (400 MHz, CDCl3) δ 8.32 (1H, brs), 8.00 (1H, s), 7.39 (2H, m), 7.12 (1H, d, J=1.8 Hz), 2.90 (1H, m), 2.17 (6H, s), 2.06–2.33 (5H, m), 1.66–1.90 (3H, m), 1.49 (1H, m); MS m/e 268.2 (M+H).

reactant | Trans-3-(2-formyl-cyclopentyl)-1H-indole-5-carbonitrile | 0.84 mMol, 200 mg | C(=O)[C@H]1[C@@H](CCC1)C1=CNC2=CC=C(C=C12)C#N | C15H14N2O
reactant | methanol | 30 mL | CO | CH4O
reactant | dimethylamine | 1.68 mMol, 2M, 0.84 mL | CNC | C2H7N
reactant | Sodium triacetoxyborohydride | 2.52 mMol, 530 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Trans-3-(2-dimethylaminomethyl-cyclopentyl)-1H-indole-5-carbonitrile | 144 mg, 64% | CN(C)C[C@H]1[C@@H](CCC1)C1=CNC2=CC=C(C=C12)C#N | C17H21N3
